US07910588B2
Stir 2-chloro-3-bromopyridine (5.00 g, 26.0 mmol) and piperazine-1-carboxylic acid t-butyl ester (3.73 g, 20.0 mmol) in dry toluene (200 mL) at room temperature under nitrogen. Add sodium t-butoxide (2.88 g, 30.0 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.366 g, 0.40 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.694 g, 1.20 mmol), degas reaction and heat to 100° C. (oil bath temperature) for 3 hr. Cool to room temperature, add 100 mL water, extract with 2×200 mL ethyl acetate. Concentrate organic layer in vacuo, purify (silica gel chromatography, eluting with 30:70 ethyl acetate:isohexane) and dry in a vacuum oven over night to give 4-(2-chloro-pyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester as a beige powder (3.01 g, 51%). MS (m/z): 298 (M+1).

reactant | 2-chloro-3-bromopyridine | 26.0 mmol, 5.00 g | ClC1=NC=CC=C1Br | C5H3BrClN
reactant | piperazine-1-carboxylic acid t-butyl ester | 20.0 mmol, 3.73 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium t-butoxide | 30.0 mmol, 2.88 g | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 1.20 mmol, 0.694 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.40 mmol, 0.366 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 mL | O | H2O
product | 4-(2-chloro-pyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester | 3.01 g, 51% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
